US07423147B2
Step D. 4-[3-(3-Piperidin-1-yl-propoxy)-isoxazol-5-ylmethyl]-piperidine.
1-[3-(5-Chloromethyl-isoxazol-3-yloxy)-propyl]-piperidine (0.15 g, 0.80 mmol) was dissolved in DCM (5 mL) and piperidine (0.24 mL, 2.4 mmol) was added slowly. The reaction mixture was stirred overnight at rt and then was concentrated to yield the crude product (0.140 g). The crude product was purified (SiO2: 0-5% 2 M NH3 in MeOH/DCM) to give the final product (0.118 g, 47.6%). MS (ESI): exact mass calcd. for C17H29N3O2, 307.23; m/z found 308.4 [M+H]+. 1H NMR (500 MHz, CDCl3): 5.75 (s, 1H), 4.25-4.20 (m, 2H), 3.53 (s, 2H), 2.47-2.31 (m, 10H), 1.98-1.90 (m, 2H), 1.61-1.52 (m, 8H), 1.45-1.35 (m, 4H).

reactant | 1-[3-(5-Chloromethyl-isoxazol-3-yloxy)-propyl]-piperidine | 0.80 mmol, 0.15 g | ClCC1=CC(=NO1)OCCCN1CCCCC1 | C12H19ClN2O2
reactant | piperidine | 2.4 mmol, 0.24 mL | N1CCCCC1 | C5H11N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(3-Piperidin-1-yl-propoxy)-isoxazol-5-ylmethyl]-piperidine | 0.118 g, 47.6% | N1(CCCCC1)CCCOC1=NOC(=C1)CC1CCNCC1 | C17H29N3O2
